US08071768B2
4-[7-(4-Methyl-piperazin-1-yl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
A mixture of 1-methylpiperazine (0.11 mmol) and 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.05 mmol), prepared as described in Example 65, in DMSO (1 mL) was stirred at 120° C. for 1 h. It was then diluted with water and extracted with DCM. The combined extracts were washed with water, brine, dried (anhydrous MgSO4), filtered and concentrated in vacuo. The crude product was then treated with 3M HCl/MeOH (2 mL) and stirred at rt for 2 h and then concentrated in vacuo. The crude residue was dissolved in a mixture of DCM:MeOH (1:1; 2 mL) and neutralized with excess Et3N and treated with (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitrophenyl ester hydrochloride (0.06 mmol), as prepared by the method outlined in Example 66a, at rt overnight. It was then concentrated in vacuo and the crude product was dissolved in DCM and washed with water thrice, then washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. The crude product was then purified by Preparative TLC (silica gel; DCM:MeOH:NH4OH, 90:9:1) to obtain 5.5 mg (21%) of the title compound. 1H-NMR (300 MHz, CDCl3): 9.04 (s, 1H), 7.98 (d, 1H), 7.36-7.18 (m, 4H), 6.88 (d, 2H), 6.32 (s, 1H), 4.25 (m, 2H), 3.89-3.83 (m, 4H), 3.69-3.55 (m, 1H), 3.53-3.43 (m, 4H), 3.19-3.04 (m, 6H), 2.66-2.58 (m, 4H), 2.39 (s, 3H), 2.20-1.90 (m, 4H). LC/MS (ESI): 516.1 (MH)+.

reactant | 1-methylpiperazine | 0.11 mmol | CN1CCNCC1 | C5H12N2
reactant | 4-(7-fluoro-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.05 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)F | C18H22FN3O2
reactant | (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitrophenyl ester hydrochloride | 0.06 mmol | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-[7-(4-Methyl-piperazin-1-yl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | 5.5 mg, 21% | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)N1CCN(CC1)C | C29H37N7O2
